Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Cipro
 
Attending: ___.
 
Chief Complaint:
MVC
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ transferred from OSH after high speed MVC, +airbag, p/w 
sternal fracture found to have small mediastinal hematoma. 
 
Past Medical History:
PMH: Hypertension, asthma, prior UTIs
PSH: None
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
GEN: NAD
HEENT: NCAT, EOMI, no scleral icterus
CV: RRR, appropriate sternal TTP
RESP: breathing comfortably on room air, no respiratory distress
GI: soft, non-TTP, no R/G/D
EXT: WWP, no peripheral edema
 
Pertinent Results:
___ 07:40AM BLOOD WBC-4.2# RBC-4.06 Hgb-12.9 Hct-39.3 
MCV-97 MCH-31.8 MCHC-32.8 RDW-12.4 RDWSD-44.1 Plt ___
___ 11:27PM BLOOD WBC-8.9 RBC-4.44 Hgb-14.5 Hct-41.8 MCV-94 
MCH-32.7* MCHC-34.7 RDW-12.3 RDWSD-42.6 Plt ___
___ 11:27PM BLOOD Neuts-68.9 Lymphs-18.1* Monos-8.1 Eos-4.0 
Baso-0.7 Im ___ AbsNeut-6.16* AbsLymp-1.62 AbsMono-0.72 
AbsEos-0.36 AbsBaso-0.06
___ 07:40AM BLOOD Glucose-83 UreaN-11 Creat-0.6 Na-139 
K-3.7 Cl-102 HCO3-27 AnGap-14
___ 11:27PM BLOOD Lipase-27
___ 07:40AM BLOOD CK-MB-6 cTropnT-<0.01
___ 08:51PM BLOOD CK-MB-11* MB Indx-2.4
___ 08:51PM BLOOD CK-MB-10 MB Indx-2.2
___ 03:45PM BLOOD cTropnT-<0.01
___ 05:52AM BLOOD cTropnT-0.02*
___ 07:40AM BLOOD Calcium-8.9 Phos-3.1 Mg-2.0
___ 11:42PM BLOOD Glucose-92 Lactate-1.0 Na-137 K-3.6 
Cl-104
___ 11:42PM BLOOD Hgb-14.9 calcHCT-45 O2 Sat-97 COHgb-2 
MetHgb-0
___ 11:42PM BLOOD freeCa-1.10*

___: CT TORSO
1. Small mediastinal hematoma.  No vascular injury identified. 
2. Minimally displaced inferior sternal fracture. 
 
Brief Hospital Course:
Following diagnosis of her sternal fracture and mediastinal 
hematoma, the patient was admitted to the ___ service at ___ 
for observation. She had an original Troponin level of 0.07 
which trended down to 0.01 by the time of discharge. Her EKGs 
were unremarkable and her pain improved with PO medications. She 
remained stable with no indications of expanding mediastinal 
hematoma. 

By the time of discharge, the patient was tolerating a regular 
diet, voiding, pain was controlled with PO medications and she 
was comfortable with D/C. She was given all the appropriate 
information regarding her discharge and follow up. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
To be taken only when Tylenol insufficient for pain control 
RX *oxycodone 5 mg 1 tablet(s) by mouth three times a day Disp 
#*10 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sternal Fracture, Mediastinal Hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

You were admitted to the Trauma Surgery Service at ___ 
___ for management of your traumatic injury 
to your sternum. You suffered a non-operative fracture of your 
sternum with an associated sub-sternal hematoma. Your cardiac 
markers and blood levels were monitored and remained stable.  
You are now ready to be discharged home. 

Please continue all of your medications that you were taking 
prior to this hospitalization and avoid any strenuous lifting, 
exercise or contact sports until instructed that it is OK to do 
so by Dr. ___ at your follow up appointment. 

For pain control, you should begin by taking 1000 mg of Tylenol 
for mild to moderate pain, and only take the Oxycodone for 
moderate to severe pain that that Tylenol does not control. You 
may need to take an over the counter stool softener should you 
develop constipation from the Oxycodone.

If you experience any increasing chest pain, palpitations, 
difficulty breathing or lightheadedness, please call Dr. ___ 
___ or go to the ER for further evaluation. 

You will have a scheduled follow up appointment with Dr. ___ as 
below. 
 
Followup Instructions:
___